US04154934
EXAMPLE 4 1-[(3-Mercapto-1-oxopropyl)amino]-L-proline, propyl ester
To a stirred suspension of 6.81 g. of 1-[(3-mercapto-1-oxopropyl)amino]-L-proline, hemihydrate in 50 ml. of ether, there is added dropwise a solution of 8.75 g. of 1-propyl-3-p-tolyltriazene in 100 ml. of ether and the mixture is heated to reflux for 4 hours. The reaction mixture is then cooled, filtered and extracted twice with 50 ml. portions of 5% hydrochloric acid and then with 50 ml. portions of 5% sodium bicarbonate solution. The ether solution is then washed with 100 ml. of saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield the crude product.

reactant | 1-[(3-mercapto-1-oxopropyl)amino]-L-proline, hemihydrate | O.SCCC(=O)NN1[C@H](C(=O)O)CCC1.SCCC(=O)NN1[C@H](C(=O)O)CCC1
reactant | 1-propyl-3-p-tolyltriazene | C(CC)N=NNC1=CC=C(C=C1)C | C10H15N3
solvent | ether | CCOCC | C4H10O
product | 1-[(3-Mercapto-1-oxopropyl)amino]-L-proline, propyl ester | SCCC(=O)NN1[C@H](C(=O)OCCC)CCC1 | C11H20N2O3S
